US05707936
1.b 1-(4-Chlorophenyl)-3-hydroxypyrazole
A solution of 57.5 g of 4-chlorophenylhydrazine hydrosulfate in 1,000 ml of tert-butanol was first treated in portions with 100.8 g of potassium tert-butoxide and then (after stirring for 10 min) in the course of 45 min at 45° C.-50° C. with a solution of 27.7 g of methyl propiolate in 90 ml of tertbutanol. After 1 h at boiling point, the mixture was allowed to cool and the solvent was removed under reduced pressure. The residue thus obtained was dissolved in 1,200 ml of water. The aqueous phase was first washed with methylene chloride and then acidified, the product being deposited as a solid. 47.6 g of the title compound were obtained, m.p.: 185°-187° C.

reactant | 4-chlorophenylhydrazine | 57.5 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | potassium tert-butoxide | 100.8 g | CC(C)([O-])C.[K+]
reactant | methyl propiolate | 27.7 g | C(C#C)(=O)OC | C4H4O2
solvent | tert-butanol | 1,000 ml | C(C)(C)(C)O | C4H10O
solvent | tertbutanol | 90 ml | C(C)(C)(C)O | C4H10O
solvent | water | 1,200 ml | O | H2O
product | 1-(4-Chlorophenyl)-3-hydroxypyrazole | 47.6 g | ClC1=CC=C(C=C1)N1N=C(C=C1)O | C9H7ClN2O
